US08957203B2
Step 1: Preparation of (E)-3-(2-chlorophenyl)acryloyl azide
To a solution of (E)-3-(2-chlorophenyl)acrylic acid (13 g, 71.2 mmol) in benzene (100 ml) was added triethylamine (14.4 g, 141 mmol) followed by DPPA (19.5 g, 71.2 mmol) at room temperature. The reaction mass was stirred at the same temperature for 18 h. The solvent was evaporated under reduced pressure and the residue was diluted with water and extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated to get crude compound. The crude compound was purified by conventional column chromatography (Silica gel, 60-120 mesh) using 10% ethyl acetate in pet ether as mobile phase to get the desire compound as pale yellow solid (14 g, 95%). 1H NMR (400 MHz, CDCl3): δ ppm 8.19-8.15 (d, J=16 Hz, 1H), 7.63-7.61 (d, J=8 Hz, 1H), 7.44-7.42 (m, 1H), 7.36-7.26 (m, 2H), 6.44-6.40 (d, J=16 Hz, 1H).

reactant | (E)-3-(2-chlorophenyl)acrylic acid | 71.2 mmol, 13 g | ClC1=C(C=CC=C1)/C=C/C(=O)O | C9H7ClO2
reactant | triethylamine | 141 mmol, 14.4 g | C(C)N(CC)CC | C6H15N
reactant | DPPA | 71.2 mmol, 19.5 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | (E)-3-(2-chlorophenyl)acryloyl azide | 14 g, 95% | ClC1=C(C=CC=C1)/C=C/C(=O)N=[N+]=[N-] | C9H6ClN3O
